US08022062B2
(±)-7-Chloro-6-(1-pyridin-2-yl-ethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the General Procedure 7, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and (±)-2-(1-bromoethyl)-pyridine to give, after deprotection by a method similar to the General Procedure 1-4, the title compound as a white solid. MS (APCI+) m/z: 319 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | (±)-2-(1-bromoethyl)-pyridine | BrC(C)C1=NC=CC=C1 | C7H8BrN
product | (±)-7-Chloro-6-(1-pyridin-2-yl-ethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SC(C)C1=NC=CC=C1 | InChI=1S/C17H19ClN2S.ClH/c1-12(16-4-2-3-9-20-16)21-17-14-8-11-19-10-7-13(14)5-6-15(17)18;/h2-6,9,12,19H,7-8,10-11H2,1H3;1H
